US07863291B2
To 2-methoxy-3,4′-bipyridin-2′-amine (0.53 g, 2.63 mmol) in dichloromethane (20 mL) was added 1,1′-thiocarbonyldipyridin-2(1H)-one (0.62 g, 2.7 mmol) and the reaction mixture was stirred at 40° C. for 4 hours. The reaction was cooled to room temperature and chromatographed (Biotage: 10-100% ethyl acetate/hexanes) to yield 2′-isothiocyanato-2-methoxy-3,4′-bipyridine (0.46 g, 1.9 mmol, 71.8% yield). 1H NMR (500 MHz, DMSO-D6) δ ppm 8.67 (d, J=2.44 Hz, 1 H), 8.26 (dd, J=4.88, 1.53 Hz, 1 H), 8.15 (dd, J=8.24, 2.44 Hz, 1 H), 7.89 (dd, J=7.32, 1.53 Hz, 1 H), 7.48 (d, J=8.24 Hz, 1 H), 7.15 (dd, J=7.32, 4.88 Hz, 1 H), 3.91 (s, 3 H). MS (LC/MS) R.T.=2.87; [M+H]+=244.9.

reactant | 2-methoxy-3,4′-bipyridin-2′-amine | 2.63 mmol, 0.53 g | COC1=NC=CC=C1C1=CC(=NC=C1)N | C11H11N3O
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 2.7 mmol, 0.62 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2′-isothiocyanato-2-methoxy-3,4′-bipyridine | 1.9 mmol, 0.46 g, 71.8% yield | N(=C=S)C1=NC=CC(=C1)C=1C(=NC=CC1)OC | C12H9N3OS
